US07402595B2
2-benzyl-6-chloro-4-(4-hydroxymethylphenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a mixture of 2-benzyl-6-chloro-4-(4-formylphenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (66 mg), methanol (1.0 ml) and THF (1.0 ml) was added sodium borohydride (6 mg) at 0° C. with stirring, and the mixture was stirred for 1 hr. The reaction mixture was concentrated, and the residue was partitioned between 1N hydrochloric acid and ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated. The residue was purified by preparative HPLC to give the title compound (30 mg) as a colorless powder.

reactant | 2-benzyl-6-chloro-4-(4-formylphenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 66 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C=O)Cl)=O)CC1=CC=CC=C1 | C25H18ClNO4
reactant | methanol | 1.0 ml | CO | CH4O
reactant | sodium borohydride | 6 mg | [BH4-].[Na+]
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
product | 2-benzyl-6-chloro-4-(4-hydroxymethylphenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 30 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)CO)Cl)=O)CC1=CC=CC=C1 | C25H20ClNO4
